US04474794
Preparation of N-2-propynyl-N'-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl-N"-cyanoguanidine
Following the above procedure, but substituting allylamine for propargylamine in the reaction with N-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl-N'-cyanocarbamidothioate, N-allyl-N'-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl-N"-cyanoguanidine was prepared. Yield=0.28 g from 600 mg of thioester.

reactant | propargylamine | C(C#C)N | C3H5N
reactant | N-allyl-N'-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl-N"-cyanoguanidine | C(C=C)NC(=NC#N)NCCSCC=1N=C(SC1)CN(C)C | C14H22N6S2
product | N-2-propynyl-N'-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl-N"-cyanoguanidine | C(C#C)NC(=NC#N)NCCSCC=1N=C(SC1)CN(C)C | C14H20N6S2
